US09403801B2
5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-(methylsulfonyl)-3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine
To a suspension of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (0.16 g, 0.43 mmol) in anhydrous DCM (10.0 mL) were added DMAP (0.011 g, 0.092 mmol) and Et3N (0.15 mL, 1.10 mmol), followed by methanesulfonyl chloride (0.076 g, 0.66 mmol) at 0° C. The mixture was stirred at room temperature overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as a light yellow solid (0.14 g, 72%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.43 mmol, 0.16 g | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNCC2)CC1 | C18H26ClN7
reactant | Et3N | 1.10 mmol, 0.15 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.66 mmol, 0.076 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.092 mmol, 0.011 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-(methylsulfonyl)-3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.14 g, 72% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(CC2)S(=O)(=O)C)CC1 | C19H28ClN7O2S
